US05389640
4-[(2-Chloro-3-nitro-4-quinolinyl)amino]-3-methyl-1-butene-3-ol
Triethyl amine (6.2 mL, 0.045 mole) was added to a solution of 2,4-dichloro-3-nitroquinoline (10.9 g, 0.045 mole) in methylene chloride (60 mL). 4-Amino-3-methyl-1-butene-3-ol was added and the reaction mixture was heated at reflux for several hours before being concentrated under vacuum. The residue was chilled in an ice bath to give a solid. The solid was recrystallized from toluene to provide 17.1 g of the desired product as a yellow solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | Triethyl amine | 0.045 mole, 6.2 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-3-nitroquinoline | 0.045 mole, 10.9 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])Cl | C9H4Cl2N2O2
reactant | 4-Amino-3-methyl-1-butene-3-ol | NCC(C=C)(O)C | C5H11NO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-[(2-Chloro-3-nitro-4-quinolinyl)amino]-3-methyl-1-butene-3-ol | 17.1 g | ClC1=NC2=CC=CC=C2C(=C1[N+](=O)[O-])NCC(C=C)(O)C | C14H14ClN3O3
